US06069151
2-(8-Methoxyquinolin-5-yl)-1H-benzimidazole-5-carboxylic acid, methyl ester dihydrochloride
A sample of 2-(8-methoxyquinolin-5-yl)-1H-benzimidazole-5-carboxylic acid, methyl ester (45 mg) was dissolved in 2M hydrochloric acid (3 ml), the resultant solution filtered and the filtrate concentrated in vacuo. The residue was triturated with dichloromethane and dried in vacuo to provide the title compound as a yellow solid (34 mg).

reactant | 2-(8-methoxyquinolin-5-yl)-1H-benzimidazole-5-carboxylic acid, methyl ester | 45 mg | COC=1C=CC(=C2C=CC=NC12)C1=NC2=C(N1)C=CC(=C2)C(=O)OC | C19H15N3O3
reactant | hydrochloric acid | 2M, 3 ml | Cl | ClH
product | 2-(8-Methoxyquinolin-5-yl)-1H-benzimidazole-5-carboxylic acid, methyl ester dihydrochloride | 34 mg | Cl.Cl.COC=1C=CC(=C2C=CC=NC12)C1=NC2=C(N1)C=CC(=C2)C(=O)OC | InChI=1S/C19H15N3O3.2ClH/c1-24-16-8-6-13(12-4-3-9-20-17(12)16)18-21-14-7-5-11(19(23)25-2)10-15(14)22-18;;/h3-10H,1-2H3,(H,21,22);2*1H
